US03963706
a. 2-(4-Sulphamoylanilino)-N-phenylacetamide
α-Chloracetanilide (17.0 g) and sulfanilamide (34.5 g) were heated together in an autoclave for 8 hours at 120°C. The mixture was triturated with 2N HCl and filtered to yield 27.5 g, m.p. 257°-258°C (acetone).

reactant | α-Chloracetanilide | 17.0 g | ClCC(=O)NC1=CC=CC=C1 | C8H8ClNO
reactant | sulfanilamide | 34.5 g | S(=O)(C1=CC=C(C=C1)N)(=O)N | C6H8N2O2S
product | 2-(4-Sulphamoylanilino)-N-phenylacetamide | S(N)(=O)(=O)C1=CC=C(NCC(=O)NC2=CC=CC=C2)C=C1 | C14H15N3O3S
